US08049014B2
Step (4): Preparation of 1-[4-(8-aminoquinolin-4-yloxy)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)urea (Compound of Formula 6)
1-[4-(8-Nitroquinolin-4-yloxy)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)urea (12.0 mg, 0.027 mmol) and tin (II) chloride (25.9 mg, 0.11 mmol) were dissolved in ethanol (0.23 mL), and then refluxed with stirring for 30 minutes. When the reaction was completed, the solvent was removed by vacuum distillation, the resultant was extracted with ethyl acetate and saturated sodium bicarbonate. Combined organic layers were dried with anhydrous sodium sulfate, and then filtered. The solvent was removed and then filtered a brown solid product to obtain 8.1 mg of the desired compound (yield 75.0%).

reactant | 1-[4-(8-Nitroquinolin-4-yloxy)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)urea | 0.027 mmol, 12.0 mg | [N+](=O)([O-])C=1C=CC=C2C(=CC=NC12)OC1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C23H14ClF3N4O4
reactant | tin (II) chloride | 0.11 mmol, 25.9 mg | [Sn](Cl)Cl
solvent | ethanol | 0.23 mL | C(C)O | C2H6O
product | 1-[4-(8-aminoquinolin-4-yloxy)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)urea | 8.1 mg, yield 75.0% | NC=1C=CC=C2C(=CC=NC12)OC1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C23H16ClF3N4O2
